US08420647B2
4-(2,5-Dichloro-phenoxy)-N-(2-dimethylamino-pyridin-3-yl)-N-methyl-nicotinamide
The title compound was prepared in analogy to Example 12, from 4-(2,5-dichloro-phenoxy)-N-(2-dimethylamino-pyridin-3-yl)-nicotinamide and using a gradient of n-heptane:ethyl acetate (100:0 to 0:100) for the chromatographic purification. Colorless oil (67%). MS (ESI): m/z=417.088 [M+H]+.

reactant | 4-(2,5-dichloro-phenoxy)-N-(2-dimethylamino-pyridin-3-yl)-nicotinamide | ClC1=C(OC2=CC=NC=C2C(=O)NC=2C(=NC=CC2)N(C)C)C=C(C=C1)Cl | C19H16Cl2N4O2
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 4-(2,5-Dichloro-phenoxy)-N-(2-dimethylamino-pyridin-3-yl)-N-methyl-nicotinamide | ClC1=C(OC2=CC=NC=C2C(=O)N(C)C=2C(=NC=CC2)N(C)C)C=C(C=C1)Cl | C20H18Cl2N4O2
